US07776847B2
N1-(5-Bromobenzo[d]isothiazol-3-yl)propane-1,3-diamine (190 mg, 0.66 mmol) and 4′-methoxybiphenyl-4-carbaldehyde (140 mg, 0.66 mmol) were combined in 1,2-dichloroethane (30 mL) and treated with sodium triacetoxyborohydride (280 mg, 1.32 mmol) and acetic acid (one drop). The mixture was sonicated at room temperature for 18 h. The reaction was diluted with ethyl acetate and then washed with water, brine and saturated sodium bicarbonate solution. The organic solution was dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The resulting residue was purified by flash column chromatography, on silica gel, eluting with 98:2 methylene chloride:methanol to yield N1-(5-bromobenzo[d]isothiazol-3-yl)-N3-((4′-methoxybiphenyl-4-yl)methyl)propane-1,3-diamine (130 mg) as a yellow solid. MW=482 confirmed by LC-MS, tr=3.24 min (Method B) MH+=481-483.

reactant | N1-(5-Bromobenzo[d]isothiazol-3-yl)propane-1,3-diamine | 0.66 mmol, 190 mg | BrC=1C=CC2=C(C(=NS2)NCCCN)C1 | C10H12BrN3S
reactant | 4′-methoxybiphenyl-4-carbaldehyde | 0.66 mmol, 140 mg | COC1=CC=C(C=C1)C1=CC=C(C=C1)C=O | C14H12O2
reactant | sodium triacetoxyborohydride | 1.32 mmol, 280 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 30 mL | ClCCCl | C2H4Cl2
catalyst | acetic acid | one drop | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N1-(5-bromobenzo[d]isothiazol-3-yl)-N3-((4′-methoxybiphenyl-4-yl)methyl)propane-1,3-diamine | 130 mg | BrC=1C=CC2=C(C(=NS2)NCCCNCC2=CC=C(C=C2)C2=CC=C(C=C2)OC)C1 | C24H24BrN3OS
